US04560685
7-Benzylamino-6-benzylthio-4-(1-oxido-thiomorpholino)-2-piperazino-pteridine
This compound was prepared analogous to Example 2 from 7-benzylamino-6-chloro-4-(1-oxido-thiomorpholino)-1-piperazino-pteridine and benzylmercaptan.

reactant | 7-benzylamino-6-chloro-4-(1-oxido-thiomorpholino)-1-piperazino-pteridine | C(C1=CC=CC=C1)NC1=C(N=C2C(=NCN(C2=N1)N1CCNCC1)N1CCS(CC1)=O)Cl | C21H27ClN8OS
reactant | benzylmercaptan | C(C1=CC=CC=C1)S | C7H8S
product | 7-Benzylamino-6-benzylthio-4-(1-oxido-thiomorpholino)-2-piperazino-pteridine | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCNCC1)N1CCS(CC1)=O)SCC1=CC=CC=C1 | C28H32N8OS2
